US05804601
While a solution (5 ml) of ethyl 6-amino-6-(2-naphthyl)hexanoate in acetonitrile (1.0 g) and a 1N aqueous solution of sodium hydroxide (4 ml) were vigorously stirred together under ice-cooling, benzoyl chloride (0.54 g) was added dropwise and the mixture was further stirred at room temperature for 1 hour. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The extract and the organic layer were combined, dried, and concentrated to provide ethyl 6-benzoylamino-6-(2-naphthyl)hexanoate (1.5 g).

reactant | ethyl 6-amino-6-(2-naphthyl)hexanoate | 5 ml | NC(CCCCC(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C18H23NO2
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | benzoyl chloride | 0.54 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetonitrile | 1.0 g | C(C)#N | C2H3N
product | ethyl 6-benzoylamino-6-(2-naphthyl)hexanoate | 1.5 g | C(C1=CC=CC=C1)(=O)NC(CCCCC(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C25H27NO3
